Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Penicillins
 
Attending: ___.
 
Major Surgical or Invasive Procedure:
none

attach
 
Pertinent Results:
DISCHARGE: 

___ 06:30AM BLOOD WBC-3.9* RBC-4.53* Hgb-13.6* Hct-42.3 
MCV-93 MCH-30.0 MCHC-32.2 RDW-12.1 RDWSD-41.7 Plt ___
___ 11:50AM BLOOD Neuts-72.0* ___ Monos-6.1 
Eos-0.0* Baso-0.4 Im ___ AbsNeut-5.45 AbsLymp-1.59 
AbsMono-0.46 AbsEos-0.00* AbsBaso-0.03
___ 06:30AM BLOOD ___
___ 06:30AM BLOOD Glucose-107* UreaN-14 Creat-1.2 Na-141 
K-4.5 Cl-105 HCO3-23 AnGap-13
___ 06:30AM BLOOD ALT-145* AST-152* LD(LDH)-388* 
TotBili-1.5
 
Brief Hospital Course:
TRANSITIONAL ISSUES: 
- follow up on resolution of fevers, numerous pending studies as 
of discharge
- please follow up LFT, as pt DC'd with transaminitis on mild 
upswing
- serial monitoring of Cr, which is 1.5 as of DC
- continued monitoring for sexually transmitted infections given 
several recent sexual contacts
- follow up on hepatic steatossis; encourage weight loss for 
likely ___

___ COURSE: 
# Fever: Endorsing several weeks of fatigue, now fever and 
weakness x4
days with new watery diarrhea x2 days. Had a sick contact with 
apparent viral illness at home though nothing to suggest URI or 
gastroenteritis. Mild transaminitis, non-focal fever certainly 
could be consistent with severe viral infection. CXR 
underwhelming for PNA and no respiratory Sx. Has new LBP without
obvious bony tenderness but some paraspinal tenderness; no high 
risk practices for diskitis/vertebral osteo; MRI L-spine 
unremarkable; LBP likely unrelated to fever picture. 
Splenomegaly present. Indirect bilirubinemia noted. Acute EBV or 
CMV was on differential. Has has extensive travel history around 
___, the ___, ___ thus at risk 
for a number of additional infections such as RMSF, Lyme. 
babesia, anaplasma, erhlichia though no joint pain, 
thrombocytopenia, myalgias; numerous serologies ordered and 
pending as of DC. GC/CT negative. Infectious etiology is likely 
though without focality and with VS stable, will hold on empiric 
treatment. ID consulted. Pt initially with fever to 102.9. Got 1 
dose of CTX in the ED but given stability and lack of focus of 
infection, this was held and monitored. CRP significantly 
elevated to 220 but downtrending over last ___lso downtrending to high 100.6 and pt said that night sweats 
had resolved. Ultimately unclear what underlying etiology 
driving fevers but pt looking well without therapy and eager to 
go home, which was reasonable. ID: pt can f/u labs with PCP 
unless anything unexpectedly results positive. Bacterial 
infection very low likelihood. No fever over past 24h prior to 
DC

# Lumbar back pain: 
Acute midline pain in back in L-spine. Per patient, has never 
had it before. No history of trauma. 4+/5 symmetric hip weakness 
but intact distally and sensation otherwise intact. 
Bowel/bladder function normal. No saddle anesthesia. MRI L-spine 
unremarkable

# Transaminitis
# Hepatic steatosis
Hepatic steatosis on RUQUS and no baseline thus unclear if this 
is new in the setting of fevers or not. HCV negative. Likely 
NASH I/s/o obesity. Hep B with core Ab+
 
#CKD: Unclear baseline but patient was told his baseline 
function was not normal. Here Cr. 1.5-1.6, stable while here 
this admission. A1c checked and prediabetic at 6.1

#Hx of Febrile seizures: Last seizure ___ years ago. Reportedly 
not on any seizure
medications any longer. No signs of seizure this admission

CHRONIC/STABLE PROBLEMS:
# DM2: held metformin, given HISS in house. A1c checked this 
admission, 6.1

# Fungal rash: minimal residual disease appreciated. Continued 
miconazole powder under folds, miconazole cream on buttocks and 
thigh

Consulting Services: ID
Contacts/HCP/Surrogate and Communication: partner ___
Code Status: Full, presumed

>30 Minutes spent on day of DC planning including bedside 
discussion with patient, as well as with ID attending

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. MetFORMIN (Glucophage) 500 mg PO BID 
2. Amoxicillin-Clavulanic Acid ___ mg PO Q12H 

 
Discharge Medications:
1.  GuaiFENesin-Dextromethorphan 5 mL PO Q6H:PRN cough 
RX *dextromethorphan-guaifenesin 100 mg-10 mg/5 mL 5 ml by mouth 
every 6 hours as needed for cough Refills:*0 
2.  MetFORMIN (Glucophage) 500 mg PO BID  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Fever, unspecified

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You were admitted to the hospital for fevers, which have now 
begun to resolve. Other laboratory markers also show that the 
inflammation in your body has is decreasing. This inflammation 
is likely the result of an infection, though the exact source of 
the infection has not yet been identified. There are a number of 
tests for various infections, which are still pending as of 
discharge. Many infections, especially those caused by viruses, 
will resolve on their own without medications, and it appears 
that this is most likely in your case. You should make sure, 
however, to follow up within the next week with your primary 
care doctor to review further lab tests. If there are increasing 
fevers at home, or new symptoms that you have not seen prior, 
then you should seek care more promptly.

It was also shown that you have some chronic kidney disease, and 
it will be important to follow up with your outpatient provider 
for monitoring of this, as well.
 
Followup Instructions:
___